US07381746B2
108 mg of (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfonyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester was stirred in 1.08 mL of 60% sulfuric acid (W/V %) for 3 days at 130° C. The reaction solution was ice-cooled and then neutralized in an aqueous solution of 5N sodium hydroxide. The mixture was stirred for 1 hour at room temperature and then purified by ion exchange resin (AG 50W-X8 Resin (H form), eluent: water, a 30% aqueous solution of tetrahydrofuran and a 10% aqueous solution of pyridine), thereby yielding 76 mg of (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfonyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid.

reactant | (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfonyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid diethyl ester | 108 mg | C(C)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1S(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl)(C(=O)OCC)F)N | C19H22Cl2FNO6S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | sulfuric acid | 1.08 mL | S(O)(O)(=O)=O | H2O4S
product | (1R,2S,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzylsulfonyl)-6-fluoro-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 76 mg | N[C@@]1([C@@H]2[C@]([C@@H]2C[C@H]1S(=O)(=O)CC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)C(=O)O | C15H14Cl2FNO6S
